US06927214B1
6,7-Dichloro-2-isopropyl-3-(5-methyl-1,3,4-thiadiazol-2-ylsulfinyl)quinoxaline
A solution of 6,7-dichloro-2-isopropyl-3-(5-methyl-1,3,4-thiadiazol-2-ylsulfanyl)quinoxaline (168 mg, 0.45 mmol) prepared as described in example 1 in dichloromethane (6 ml) was stirred in a dry ice/acetone bath at −78° C. while mCPBA (142 mg, 0.45 mmol) was added. After 8.5 hours, the reaction was quenched by addition of a saturated solution of sodium bi-carbonate. The layers were separated and the aqueous layer was extracted twice with chloroform. Evaporation of the solvent yielded a pale yellow solid. The product was purified by flash column chromatography using ethyl acetate:hexanes 1:3 to afford the title compound.

reactant | 6,7-dichloro-2-isopropyl-3-(5-methyl-1,3,4-thiadiazol-2-ylsulfanyl)quinoxaline | 0.45 mmol, 168 mg | ClC=1C=C2N=C(C(=NC2=CC1Cl)C(C)C)SC=1SC(=NN1)C | C14H12Cl2N4S2
reactant | mCPBA | 0.45 mmol, 142 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | 6,7-Dichloro-2-isopropyl-3-(5-methyl-1,3,4-thiadiazol-2-ylsulfinyl)quinoxaline | ClC=1C=C2N=C(C(=NC2=CC1Cl)C(C)C)S(=O)C=1SC(=NN1)C | C14H12Cl2N4OS2
